US06720320B2
2-(5-ethylthiophen-2-yl)-4-methoxybenzo(b)furan
To a solution of 4-methoxy-2-(trimethylstannyl)-benzo(b)furan (3.00 g) and 2-bromo-5-ethylthiophene (1.84 g) in THF (25 ml) was added bistriphenylphosphinepalladium dichloride (224 mg), and the mixture was stirred with refluxing overnight. After cooling, ethyl acetate was added to the reaction mixture and the mixture was filtered through celite. The filtrate was washed with water and saturated brine, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (1.04 g) as a yellow oil.

reactant | 4-methoxy-2-(trimethylstannyl)-benzo(b)furan | 3.00 g | COC1=CC=CC=2OC(=CC21)[Sn](C)(C)C
reactant | 2-bromo-5-ethylthiophene | 1.84 g | BrC=1SC(=CC1)CC | C6H7BrS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(5-ethylthiophen-2-yl)-4-methoxybenzo(b)furan | 1.04 g | C(C)C1=CC=C(S1)C1=CC2=C(O1)C=CC=C2OC | C15H14O2S
